US07071151B2
A solution of 3-(3-benzoyl-2,4-dihydroxyphenyl)-but-2-enoic acid (5.97 g, 20.0 mmol), citronellol (3.13 g, 20.0 mmol) and p-toluenesulfonic acid (1 g) in cyclohexane (150 mL) is refluxed for 6 h under vacuum using a Dean Stark separator. The reaction mixture is partitioned between methylene chloride (150 mL) and water (150 mL); the organic layer is removed and washed with methylene chloride (100 mL). The combined organic layers are washed sequentially with saturated sodium bicarbonate solution (100 mL) and brine (100 mL). The organic layer is dried over anhydrous magnesium sulfate, filtered and concentrated to give (E)-3-(3-benzoyl-2,4-dihydroxyphenyl)-but-2-enoic acid 3,7-dimethyl-oct-7-enyl ester as an oil which can be purified by flash chromatography.

reactant | 3-(3-benzoyl-2,4-dihydroxyphenyl)-but-2-enoic acid | 20.0 mmol, 5.97 g | C(C1=CC=CC=C1)(=O)C=1C(=C(C=CC1O)C(=CC(=O)O)C)O | C17H14O5
reactant | citronellol | 20.0 mmol, 3.13 g | CC(C)=CCCC(C)CCO | C10H20O
reactant | p-toluenesulfonic acid | 1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | cyclohexane | 150 mL | C1CCCCC1 | C6H12
product | (E)-3-(3-benzoyl-2,4-dihydroxyphenyl)-but-2-enoic acid 3,7-dimethyl-oct-7-enyl ester | CC(CCOC(\C=C(/C)\C1=C(C(=C(C=C1)O)C(C1=CC=CC=C1)=O)O)=O)CCCC(=C)C | C27H32O5
